US07179823B1
Sodium hydride (60%, oily, 1.94 g) was added to a mixture of 1-benzyl-3-benzyloxy-1H-pyrazole-4-carbaldehyde (12.90 g), ethyl diethylphosphonoacetate (9.60 ml), and N,N-dimethylformamide (200 ml) at 0° C., and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with diluted hydrochloric acid and then with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The crystals obtained were collected by filtration to yield ethyl(E)-3-(1-benzyl-3-benzyloxy-1H-pyrazol-4-yl)propenoate (14.50 g, yield: 91%). This was recrystallized from ethyl acetate-hexane. Melting point: 88–89° C.

reactant | Sodium hydride | 1.94 g | [H-].[Na+]
reactant | 1-benzyl-3-benzyloxy-1H-pyrazole-4-carbaldehyde | 12.90 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C=O)OCC1=CC=CC=C1 | C18H16N2O2
reactant | ethyl diethylphosphonoacetate | 9.60 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl(E)-3-(1-benzyl-3-benzyloxy-1H-pyrazol-4-yl)propenoate | 14.50 g, yield: 91% | C(C1=CC=CC=C1)N1N=C(C(=C1)/C=C/C(=O)OCC)OCC1=CC=CC=C1 | C22H22N2O3
